US08431607B2
In a 100 mL round bottom flask is added methyltriphenylphosphonium bromide (2.79 g, 7.8 mmol) and anhydrous ethyl ether (40 mL). The suspension is then cooled down to −78° C. and BuLi (6.77 mmol, 4.23 mL 1.6 M solution in hexane) is added dropwise. After the addition, the bright yellow mixture is warmed up to 0° C. and stirred for 30 min and cooled down to −78° C. again. To this mixture, a solution of 3-fluoro-5-trifluoromethyl-benzaldehyde (1 g, 5.2 mmol) in anhydrous ethyl ether (6 mL) is added drop by drop. After the addition, the mixture is slowly warmed up to room temperature and stirred for 14 hr. The precipitate is removed by filtration and washed with ethyl ether (2×5 mL). The filtrate is concentrated by distilling off ethyl ether at ˜60° C. bath temperature. The resulted higher boiling point liquid is purified by pass through a short column (silica gel) with hexane. After removing the hexane under vacuum (˜150 mmHg), the resulted crude 1-fluoro-3-trifluoromethyl-5-vinyl-benzene is used directly for next step.

reactant | BuLi | 6.77 mmol, 1.6 M, 4.23 mL | [Li]CCCC
reactant | 3-fluoro-5-trifluoromethyl-benzaldehyde | 5.2 mmol, 1 g | FC=1C=C(C=O)C=C(C1)C(F)(F)F | C8H4F4O
catalyst | methyltriphenylphosphonium bromide | 7.8 mmol, 2.79 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethyl ether | 6 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 40 mL | C(C)OCC | C4H10O
product | 1-fluoro-3-trifluoromethyl-5-vinyl-benzene | FC1=CC(=CC(=C1)C=C)C(F)(F)F | C9H6F4
